US05530002
3.2. 2-(1H-Inden-3-yl)ethyl 4-methylbenzenesulphonate
5 g (0.031 mol) of 1H-indene-3-ethanol are dissolved in 50 ml of dry pyridine. The mixture is stirred and cooled using an ice bath, 5.9 g (0.031 mol) of 4-methylbenzenesulphonyl chloride are added in portions, and stirring is continued under cold conditions for 1 h and then at room temperature for 4 h. The solution obtained is poured into a mixture of 100 ml of 10N hydrochloric acid and 200 g of ice. The mixture is extracted twice with diethyl ether, and the organic phase is separated, washed with water, dried over magnesium sulphate and filtered. The filtrate is evaporated under reduced pressure. 7 g of an oily product are obtained which is used as it is in the following step.

reactant | 1H-indene-3-ethanol | 0.031 mol, 5 g | C1C=C(C2=CC=CC=C12)CCO | C11H12O
reactant | 4-methylbenzenesulphonyl chloride | 0.031 mol, 5.9 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | hydrochloric acid | 10N, 100 ml | Cl | ClH
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-(1H-Inden-3-yl)ethyl 4-methylbenzenesulphonate | 7 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC1=CCC2=CC=CC=C12 | C18H18O3S
